US06420359B1
g) 2-Chloro-5,11-dihydro-11-ethyl-4-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one
Diethyl azodicarboxylate (DEAD) (83 μL, 0.53 mmol) was added drop-wise to a solution of 2-chloro-5,11-dihydro-11-ethyl-8-(2-hydroxyethyl)-4-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (125 mg, 0.38 mmol), 4-hydroxyquinoline (76.3 mg, 0.53 mmol) and Ph3P (138 mg, 0.53 mmol) in THF (2.5 mL) at room temperature. The mixture was stirred at room temperature for 3 h then was concentrated under reduced pressure. The residue was dissolved in EtOAc (60 mL) and the solution was successively washed with 1 N aqueous NaOH (3×10 mL) and brine (15 mL) then was dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (EtOAc:MeOH, 9:1) to give the title compound (52 mg, 30% yield) as a white solid: MS (ESI) m/z 460/462 (MH)+.

reactant | Diethyl azodicarboxylate | 0.53 mmol, 83 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-chloro-5,11-dihydro-11-ethyl-8-(2-hydroxyethyl)-4-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 0.38 mmol, 125 mg | ClC=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC(=C3)CCO)=O)C | C16H17ClN4O2
reactant | 4-hydroxyquinoline | 0.53 mmol, 76.3 mg | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | Ph3P | 0.53 mmol, 138 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-Chloro-5,11-dihydro-11-ethyl-4-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one | 52 mg, 30% yield | ClC=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC(=C3)CCOC3=CC=NC1=CC=CC=C31)=O)C | C25H22ClN5O2
